US04002753
3-(2-Carbethoxyhydrazino)-6-dimethylaminopyridazine hydrochloride
A mixture of 1.57 g (0.01 moles) 3-chloro-6-dimethylaminopyridazine and 2.08 g (0.02 moles) monocarbethoxyhydrazine is warmed up for half an hour at 160° C. The resulting mixture is cooled, water added thereto, the solid which separates filtered away and the filtrate neutralized with NaHCO3 until a final pH 7. The mixture is then extracted with chloroform; the organic extract dried over sodium sulphate and the solvent evaporated. The residual oil is purified by chromatography on silica gel, eluting with a mixture of chloroform:methanol 8.5:1.5. The unitary fractions on thin layer chromatography with the same Rf are collected together, evaporated and the residue treated while warm with ethyl ether, and the residue filtered off. By addition of hydrogen chloride to the filtrate, 3-(2-carbethoxyhydrazino)-6-dimethylaminopyridazine hydrochloride precipitates with good yields melting at 215°-217° C (with dec).

reactant | 3-chloro-6-dimethylaminopyridazine | 0.01 moles, 1.57 g | ClC=1N=NC(=CC1)N(C)C | C6H8ClN3
reactant | monocarbethoxyhydrazine | 0.02 moles, 2.08 g | C(=O)(OCC)NN | C3H8N2O2
solvent | water | O | H2O
product | 3-(2-Carbethoxyhydrazino)-6-dimethylaminopyridazine hydrochloride | Cl.C(=O)(OCC)NNC=1N=NC(=CC1)N(C)C | InChI=1S/C9H15N5O2.ClH/c1-4-16-9(15)13-11-7-5-6-8(12-10-7)14(2)3;/h5-6H,4H2,1-3H3,(H,10,11)(H,13,15);1H
